US04339450
E-4-[2-Hydroxy-3-(pyrrolidin-1-yl)-propoxy]imino-4,5,6,7-tetrahydrobenzo[b]thiophene (I)
This compound is prepared by the procedure described in Example 1 by condensing E-4-(2,3-epoxypropoxy)imino-4,5,6,7-tetrahydrobenzo[b]thiophene with pyrrolidine. Oxalate: white crystals; m.p. 136° C. (recrystallised from isopropyl alcohol); yield: 77.5% of theory.

reactant | E-4-(2,3-epoxypropoxy)imino-4,5,6,7-tetrahydrobenzo[b]thiophene | O1C(CO\N=C\2/CCCC=3SC=CC32)C1 | C11H13NO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | Oxalate | C(C(=O)[O-])(=O)[O-]
product | E-4-[2-Hydroxy-3-(pyrrolidin-1-yl)-propoxy]imino-4,5,6,7-tetrahydrobenzo[b]thiophene | yield: 77.5% | OC(CO\N=C\1/CCCC=2SC=CC21)CN2CCCC2 | C15H22N2O2S
